US05436224
Production of 6-ethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 402)
Xylene (2 ml) was added to a mixture of 6-ethyl-5-phenyl-2,2-dimethyl-2H,4H-1,3-dioxin-4-one (0.70 g) and N-methylene-1-methyl-1-phenylethylamine (0.44 g), and the resulting mixture was heated at reflux for 20 minutes for reaction. The reaction mixture was purified by silica gel chromatography to obtain the captioned compound (0.72 g).

reactant | 6-ethyl-5-phenyl-2,2-dimethyl-2H,4H-1,3-dioxin-4-one | 0.70 g | C(C)C1=C(C(OC(O1)(C)C)=O)C1=CC=CC=C1 | C14H16O3
reactant | N-methylene-1-methyl-1-phenylethylamine | 0.44 g | C=NC(C)(C1=CC=CC=C1)C | C10H13N
solvent | Xylene | 2 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-ethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 0.72 g | C(C)C1=C(C(N(CO1)C(C)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C21H23NO2
